US05597825
4-Cyano-4'-(4-methoxycarbonylbutyrylamino)biphenyl
6.6 g of 4-amino-4'-cyano-biphenyl (melting point: 171°-173° C., prepared by reduction of 4-cyano-4'-nitrobiphenyl with hydrogen in the presence of palladium/charcoal in ethyl acetate, 4-cyano-4'-nitrobiphenyl is prepared by reacting 4-cyano-biphenyl with fuming nitric acid) and 5.8 g of N-ethyldiisopropylamine are dissolved in 70 ml of methylene chloride and 5.6 g of glutaric acid monomethylester chloride are added with stirring. The mixture is stirred for two hours at ambient temperature. The organic phase is washed successively with 0.1N sodium hydroxide solution, 0.1N hydrochloric acid and water. After evaporation of the organic phase the residue is recrystallized from ethanol.

reactant | 4-amino-4'-cyano-biphenyl | 6.6 g | NC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H10N2
reactant | hydrogen | [H][H] | H2
reactant | 4-cyano-biphenyl | C(#N)C1=CC=C(C=C1)C1=CC=CC=C1 | C13H9N
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | N-ethyldiisopropylamine | 5.8 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | glutaric acid monomethylester chloride | 5.6 g | [Cl-].COC(CCCC(=O)O)=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 4-cyano-4'-nitrobiphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H8N2O2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium/charcoal | [Pd] | Pd
product | 4-Cyano-4'-(4-methoxycarbonylbutyrylamino)biphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(CCCC(=O)OC)=O | C19H18N2O3
